US08293909B2
2-(4-fluorophenyl)-N-methyl-5-(3-(1-phenylcyclobutylcarbamoyl)phenyl)benzo[b]thiophene-3-carboxamide was prepared from 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzo[b]thiophen-5-yl)benzoic acid (0.075 g, 0.15 mmol) and 1-phenylcyclobutanamine hydrochloride (0.041 g, 0.22 mmol). 1H NMR (500 MHz, DMSO-D6) δ ppm 9.18 (s, 1H), 8.42 (d, J=4.58 Hz, 1H), 8.14-8.22 (m, 2H), 7.97 (s, 1H), 7.88 (dd, J=16.02, 7.48 Hz, 2H), 7.82 (d, J=8.54 Hz, 1H), 7.66 (dd, J=8.24, 5.80 Hz, 2H), 7.59 (t, J=7.63 Hz, 1H), 7.52 (d, J=7.63 Hz, 2H), 7.31-7.40 (m, 4H), 7.21 (t, J=7.32 Hz, 1H), 2.77 (d, J=4.58 Hz, 3H), 2.62-2.71 (m, 2H), 2.53-2.60 (m, 2H), 2.02-2.11 (m, 1H), 1.83-1.92 (m, 1H). LCMS: retention time: 3.370 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 micron, C18, 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3OH/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3OH/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 535 (MH+).

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzo[b]thiophen-5-yl)benzoic acid | 0.15 mmol, 0.075 g | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)C=2C=C(C(=O)O)C=CC2)C(NC)=O | C23H16FNO3S
reactant | 1-phenylcyclobutanamine hydrochloride | 0.22 mmol, 0.041 g | Cl.C1(=CC=CC=C1)C1(CCC1)N
product | 2-(4-fluorophenyl)-N-methyl-5-(3-(1-phenylcyclobutylcarbamoyl)phenyl)benzo[b]thiophene-3-carboxamide | FC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC(=C2)C2=CC(=CC=C2)C(NC2(CCC2)C2=CC=CC=C2)=O)C(=O)NC | C33H27FN2O2S
